US04420225
214 g (1.1 mols) of o-trifluoromethylbenzyl chloride are initially introduced into the reaction vessel and are heated to about 150° C. A hot solution, at about 100° C., of 262 g (1 mol) of triphenylphosphine in 115 ml of xylene is added thereto, whilst stirring. Stirring is continued at 150° C. for a short time, the mixture is cooled to 20° C. and the crystal sludge is filtered off and washed with cyclohexane/methylene chloride (7:3). After drying at 170° C. and under 0.1 mm Hg, 412 g (90.2% of the theoretical yield) of o-trifluoromethylbenzyltriphenyl-phosphonium chloride are obtained.

reactant | o-trifluoromethylbenzyl chloride | 1.1 mols, 214 g | FC(C1=C(CCl)C=CC=C1)(F)F | C8H6ClF3
reactant | triphenylphosphine | 1 mol, 262 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | xylene | 115 ml | C=1(C(=CC=CC1)C)C | C8H10
product | o-trifluoromethylbenzyltriphenyl-phosphonium chloride | [Cl-].FC(C1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1)(F)F | InChI=1S/C26H21F3P.ClH/c27-26(28,29)25-19-11-10-12-21(25)20-30(22-13-4-1-5-14-22,23-15-6-2-7-16-23)24-17-8-3-9-18-24;/h1-19H,20H2;1H/q+1;/p-1
